US04069240
A mixture of 21.9 g. (0.10 mole) of cyclohexyl carbanilate, 77 ml. of 2-propanol, and 3.0 g. of 5% on carbon was added to a 0.5-1., glass, low pressure, Parr (trademark) shaker bottle. The apparatus was assembled, purged first with nitrogen and then with hydrogen, and pressured with hydrogen to 50 psig. The reaction mixture was agitated at room temperature and 50 to 25 psig for 3.0 hr., followed by an additional 0.8 hr. with little or no gas absorption. The reaction product was filtered through Celite filter aid to remove the catalyst. The solvent was removed in a rotary evaporator under vacuum. The solid residue consisted of 22.3 g. (99% yield) of cyclohexyl cyclohexylcarbamate, m.p. 77°-78°. Anal. Calcd. for C13H23NO2 : C, 69.29; H, 10.30; N, 6.21. Found: C, 69.43; H, 10.10; N, 6.20.

reactant | cyclohexyl carbanilate | 0.10 mole | C(NC1=CC=CC=C1)(OC1CCCCC1)=O | C13H17NO2
solvent | 2-propanol | CC(C)O | C3H8O
product | cyclohexyl cyclohexylcarbamate | 99% yield | C1(CCCCC1)NC(OC1CCCCC1)=O | C13H23NO2
